US04925478
5-Chloroquinol-8-yloxy-acetaldehyde diethyl acetal (1)
180 g of 5-chloro-8-hydroxyquinoline, 237 g of 2-bromoacetaldehyde diethyl acetal and 200 g of potassium carbonate are stirred for 4 h at 120° C. in 800 ml of dimethylformamide. After cooling, the mixture is poured into 2.5 liters of water, and the product is filtered off under suction and dried in vacuo, melting point 51°-53° C.

reactant | 5-chloro-8-hydroxyquinoline | 180 g | ClC1=C2C=CC=NC2=C(C=C1)O | C9H6ClNO
reactant | 2-bromoacetaldehyde diethyl acetal | 237 g | C(C)OC(CBr)OCC | C6H13BrO2
reactant | potassium carbonate | 200 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 2.5 liters | O | H2O
solvent | dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
product | 5-Chloroquinol-8-yloxy-acetaldehyde diethyl acetal | C(C)OC(COC=1C=CC(=C2C=CC=NC12)Cl)OCC | C15H18ClNO3
